US07612084B2
di-tert-butyl(8-{3-[(1R)-3-(diisopropylamino)-1-phenylpropyl]-4-hydroxyphenyl}octyl)imidodicarbonate
di-tert-butyl[(7E)-8-{4-(benzyloxy)-3-[(1R)-3-(diisopropylamino)-1-phenylpropyl]phenyl}oct-7-en-1-yl]imidodicarbonate (Preparation 51, 530 mg, 0.73 mmol), palladium hydroxide (20% by weight on carbon, 100 mg, 0.14 mmol) and ammonium formate (1.1 g, 17 mmol) were dissolved in ethanol (20 ml) and heated to 70° C. for 3 hours. Reaction mixture was cooled and filtered and the solvent removed in vacuo to yield the title compound as a clear oil, 340 mg.

reactant | di-tert-butyl[(7E)-8-{4-(benzyloxy)-3-[(1R)-3-(diisopropylamino)-1-phenylpropyl]phenyl}oct-7-en-1-yl]imidodicarbonate | 0.73 mmol, 530 mg | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)CCCCCC\C=C\C1=CC(=C(C=C1)OCC1=CC=CC=C1)[C@H](CCN(C(C)C)C(C)C)C1=CC=CC=C1 | C46H66N2O5
reactant | ammonium formate | 17 mmol, 1.1 g | C(=O)[O-].[NH4+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | palladium hydroxide | 0.14 mmol, 100 mg | [OH-].[Pd+2].[OH-]
product | di-tert-butyl(8-{3-[(1R)-3-(diisopropylamino)-1-phenylpropyl]-4-hydroxyphenyl}octyl)imidodicarbonate | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)CCCCCCCCC1=CC(=C(C=C1)O)[C@H](CCN(C(C)C)C(C)C)C1=CC=CC=C1 | C39H62N2O5
